US07053255B2
(2) Synthesis of 3-t-butyl-9,10-bis(4-(2,2-diphenylvinyl)phenyl)-anthracene (Compound 33)
2-t-Butyl-9,10-bis(4-(2,2-diphenylvinyl)phenyl)-9,10-dihydroxy-9,10-dihydroanthracene (3.3 g, 4.3 mmole) was dissolved into acetic acid (30 ml). To the resultant solution, potassium iodide (1.9 g, 11 mmole, 2.7 eq) and sodium phosphinate monohydrate (0.6 g, 5.7 mmole) were added and the obtained mixture was stirred for 2 hours. The reaction mixture was filtered and washed with water, methanol and acetone and a light yellow solid (2.8 g, 88%) was obtained.

reactant | 2-t-Butyl-9,10-bis(4-(2,2-diphenylvinyl)phenyl)-9,10-dihydroxy-9,10-dihydroanthracene | 4.3 mmole, 3.3 g | C(C)(C)(C)C1=CC=2C(C3=CC=CC=C3C(C2C=C1)(O)C1=CC=C(C=C1)C=C(C1=CC=CC=C1)C1=CC=CC=C1)(O)C1=CC=C(C=C1)C=C(C1=CC=CC=C1)C1=CC=CC=C1 | C58H48O2
reactant | potassium iodide | 11 mmole, 1.9 g, 2.7 eq | [I-].[K+]
reactant | sodium phosphinate monohydrate | 5.7 mmole, 0.6 g | O.[PH2]([O-])=O.[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 3-t-butyl-9,10-bis(4-(2,2-diphenylvinyl)phenyl)-anthracene | 2.8 g, 88% | C(C)(C)(C)C=1C=CC2=C(C3=CC=CC=C3C(=C2C1)C1=CC=C(C=C1)C=C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C=C(C1=CC=CC=C1)C1=CC=CC=C1 | C58H46
